US07482454B2
1-Ethyl-1,4-dihydro-7-fluoro-8-methoxy-4-oxo-3-quinolinecarboxylic acid
Ethyl 1-ethyl-1,4-dihydro-7-fluoro-8-methoxy-4-oxo-3-quinolinecarboxylate (1.37 g, 4.7 mmol) is suspended in a mixture of acetic acid:water:sulfuric acid (8:6:1). The mixture is refluxed for 3 hours, and then cooled to room temperature. The crystals are filtered and rinsed with cold water.

reactant | Ethyl 1-ethyl-1,4-dihydro-7-fluoro-8-methoxy-4-oxo-3-quinolinecarboxylate | 4.7 mmol, 1.37 g | C(C)N1C=C(C(C2=CC=C(C(=C12)OC)F)=O)C(=O)OCC | C15H16FNO4
solvent | acetic acid water sulfuric acid | C(C)(=O)O.O.S(O)(O)(=O)=O
product | 1-Ethyl-1,4-dihydro-7-fluoro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | C(C)N1C=C(C(C2=CC=C(C(=C12)OC)F)=O)C(=O)O | C13H12FNO4
